Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
==============
___ 01:45PM BLOOD WBC-8.7 RBC-4.09 Hgb-13.4 Hct-37.5 MCV-92 
MCH-32.8* MCHC-35.7 RDW-15.2 RDWSD-50.4* Plt ___
___ 01:45PM BLOOD Neuts-76.7* Lymphs-11.8* Monos-9.1 
Eos-1.4 Baso-0.5 Im ___ AbsNeut-6.66* AbsLymp-1.02* 
AbsMono-0.79 AbsEos-0.12 AbsBaso-0.04
___ 01:45PM BLOOD ___ PTT-30.2 ___
___ 01:45PM BLOOD Glucose-98 UreaN-19 Creat-1.1 Na-141 
K-4.1 Cl-103 HCO3-27 AnGap-11
___ 01:45PM BLOOD ALT-16 AST-23 LD(LDH)-265* AlkPhos-79 
TotBili-3.0* DirBili-0.5* IndBili-2.5
___ 01:45PM BLOOD Albumin-5.3*

OTHER RELEVANT LABS
=====================
___ 01:45PM BLOOD Lipase-50
___ 01:45PM BLOOD cTropnT-<0.01
___ 05:25PM BLOOD cTropnT-<0.01
___ 01:45PM BLOOD TSH-1.1
___ 01:45PM BLOOD CRP-29.3*
___ 05:38PM BLOOD SED RATE-PND

DISCHARGE LABS
==============
___ 07:35AM BLOOD WBC-4.7 RBC-3.43* Hgb-11.2 Hct-31.4* 
MCV-92 MCH-32.7* MCHC-35.7 RDW-15.5 RDWSD-50.9* Plt ___
___ 07:35AM BLOOD Glucose-91 UreaN-19 Creat-1.0 Na-143 
K-4.2 Cl-105 HCO3-26 AnGap-12
___ 07:35AM BLOOD Calcium-9.3 Phos-3.8 Mg-2.1

IMAGING/STUDIES
===============
___ CXR
Lungs are clear.  Heart size is normal.  There is no pleural 
effusion.  No 
pneumothorax is seen.  No evidence of pneumonia 
 
Brief Hospital Course:
TRANSITIONAL ISSUES
===================
[] Discharged on omeprazole 40 BID, clarithromycin 500 BID, 
flagyl 500 TID x 14 days for empiric H pylori treatment given 
positive IgG and epigastric/lower substernal chest pressure. 
[] Stool sample not obtained to assess for active H pylori 
infection, but would consider stool sample as outpatient to 
ensure clearance of presumed H pylori infection
[] Patient with mildly elevated total bilirubin while admitted. 
Appears chronic. Consider further work-up of causes of elevated 
bilirubin as outpatient.
[] Patient with elevated CRP while admitted, likely secondary to 
presumed H pylori infection. Consider following up CRP to ensure 
resolution of inflammatory process with triple therapy (or 
pursue further work-up if still elevated). ESR pending at 
discharge.

BRIEF SUMMARY:
=================
___ PMH HTN, choledocholithiasis, DCIS, s/p hysterectomy, 
presenting with an episode of chest pressure. History notable 
for previous episodes of the same pressure that are not related 
to exertion and are intermittent without clear trigger. EKG and 
trops negative in ED. Most likely diagnosis is H pylori 
infection as patient apparently had symptoms after taking meds, 
pain seems to be lower chest/epigastric, and had H pylori IgG 
positive about a month prior to admission, though at that time 
was not felt to have symptoms. We recommended stress echo, but 
patient declined, opting to pursue as outpatient, which we felt 
was an appropriate discharge plan. Discharged on omeprazole, 
clarithromycin, and flagyl as patient has allergy to 
penicillins.

ACUTE ISSUES:
=============
# Gastroesophageal reflux disease
# Peptic ulcer disease
# H pylori infection
# Atypical chest pain/pressure
Her story is not convincing for cardiac origin of chest pain, 
was temporally associated with taking her pills and previously 
with a stressful episode. Of note, on reclarification of history 
patient has had these symptoms intermittently for ___ years. Her 
EKG was non-ischemic and she also had two negative troponins, 
thus low concern for ACS, especially as she is able to perform 
physical activity without any chest pain or pressure or 
shortness of breath. Given the lower pretest probability, we 
recommended getting a stress echo, however patient wanted to 
defer to outpatient and inpatient team was okay with this as a 
safe discharge plan. With her history of breast cancer, would 
avoid nuclear stress test which would expose to further 
radiation.  Most likely diagnosis is H pylori infection as 
patient apparently had symptoms after taking meds, pain seems to 
be lower chest/epigastric, and had H pylori IgG positive about a 
month prior to admission, though at that time was not felt to 
have symptoms. Differential also includes dyspepsia, anxiety, 
esophageal spasm. Also with radiographic evidence of 
choledocholithiasis from her MRI in ___, however this seems 
less likely w/ only chronically elevated bilirubin. She was 
discharged on omeprazole, clarithromycin, and flagyl as patient 
has allergy to penicillins. Consider stool study to confirm 
clearance of H pylori infection as outpatient, though of note 
patient did not give stool study while inpatient.

# Headache: 
Appears to be tension headache given band-like nature. No 
associated aura or visual symptoms. Improved with fluids. 
Treated with Tylenol PRN with good effect.

# Elevated CRP: 
Nonspecific with broad differential and no localizing symptoms 
aside from lower chest/epigastric pain. Most likely related to 
presumed H pylori infection. TSH normal. ESR sent out. Would 
follow up at outpatient.

CHRONIC ISSUES:
===============
# Elevated total bilirubin: 
Seen on prior labs, primarily indirect hyperbilirubinemia. No 
e/o hemolysis. ___ be inherited conjugation defect given the 
persistence on prior labs, or reduced uptake. Not requiring any 
emergent actions. ___ be ___. Consider further work-up as 
outpatient.

# Hypertension: 
Continued home valsartan
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Senna 8.6 mg PO BID 
3. Valsartan 80 mg PO DAILY 
4. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Clarithromycin 500 mg PO BID 
RX *clarithromycin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*27 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*41 Tablet Refills:*0 
3.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*27 
Capsule Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  Senna 8.6 mg PO BID  
7.  Valsartan 80 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
========
Helicobacter pylori infection
Peptic ulcer disease
Gastroesophageal reflux disease

SECONDARY
==========
Tension headache
Hypertension
Hyperbilirubinemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had chest pain

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- We did some lab tests, which showed that your chest pain was 
probably not related to your heart. We did not think you were 
have a heart attack

- We tried to do a stress test while you were in the hospital, 
but could not do it before you wanted to leave the hospital. We 
recommend doing a stress test after you leave the hospital. 

- We gave you medicine for H pylori, a bacteria that can cause 
stomach ulcers and cause worsening heartburn, which we think is 
the cause of your lower chest pain.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- It's especially important to meet with your primary care 
doctor soon to discuss a stress test for evaluation of your 
chest pain

We wish you the best! 

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___